US08182718B2
Mas=Nickel (II) bis(diisobutyldithiophosphinate)
0.55 g Nickel(II) perchlorate hexahydrate was dissolved in 0.5 ml of water. 0.60 g of a 50% sodium di(isobutyl)dithiophosphinate water solution and another 2.5 ml water were added. A dark purple precipitate formed immediately. The precipitate was collected by vacuum filtration and washed with three 5 ml portions of water. The precipitate was dried at 50 C in a vacuum oven.

reactant | Nickel(II) perchlorate hexahydrate | 0.55 g | O.O.O.O.O.O.Cl(=O)(=O)(=O)[O-].[Ni+2].Cl(=O)(=O)(=O)[O-]
reactant | sodium di(isobutyl)dithiophosphinate water | O.C(C(C)C)P([S-])(=S)CC(C)C.[Na+]
solvent | water | 0.5 ml | O | H2O
solvent | water | 2.5 ml | O | H2O
product | Nickel (II) bis(diisobutyldithiophosphinate) | C(C(C)C)P([S-])(=S)CC(C)C.C(C(C)C)P([S-])(=S)CC(C)C.[Ni+2] | InChI=1S/2C8H19PS2.Ni/c2*1-7(2)5-9(10,11)6-8(3)4;/h2*7-8H,5-6H2,1-4H3,(H,10,11);/q;;+2/p-2
